US07544704B2
b) N-Cyclopropylmethyl-3-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-benzamide
To a solution of 3-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-benzoic acid (250 mg; 0.82 mmol) in N,N-dimethylformamide (4.8 mL) was added 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (318 mg, 0.99 mmol) at 0° C. After stirring for 15 min at this temperature, aminomethylcyclopropane (86 μl, 0.99 mmol) and N-ethyldiisopropylamine (0.85 mL, 4.94 mmol) were added and the reaction mixture was allowed to warm to ambient temperature. After 1.75 h stirring at ambient temperature, it was extracted with dichloromethane (300 mL) and aqueous sodium carbonate (2 M, 75 mL). The combined organic layers were washed with brine (75 mL), dried over sodium sulfate and concentrated. Purification by chromatography (SiO2, heptane:ethyl acetate=95:5 to 0:100) afforded the title compound (254 mg, 87%) as a white solid. MS: m/e=357.1 [M+H]+.

reactant | 3-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-benzoic acid | 0.82 mmol, 250 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C#CC=1C=C(C(=O)O)C=CC1 | C19H13NO3
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.99 mmol, 318 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | aminomethylcyclopropane | 0.99 mmol, 86 μl | NCC1CC1 | C4H9N
reactant | N-ethyldiisopropylamine | 4.94 mmol, 0.85 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 4.8 mL | CN(C=O)C | C3H7NO
product | N-Cyclopropylmethyl-3-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-benzamide | 254 mg, 87% | C1(CC1)CNC(C1=CC(=CC=C1)C#CC=1C(=NOC1C)C1=CC=CC=C1)=O | C23H20N2O2
